US04201779
(c) Ethyl 2-triphenylmethylamino-thiazol-4-yl-glyoxylate
27 g of triethylamine are added to a solution of 90 g of ethyl 2-aminothiazol-4-glyoxylate in 225 ml of dimethylformamide and 375 ml of CH2Cl2, at -15°, and 75 g of triphenylchloromethane are then added at -30 °. After 15 minutes at -30°, the mixture is stirred for 3 hours without a cooling bath, 500 ml of CH2Cl2 are added to the resulting reaction mixture and the mixture is washed with 300 ml of 1 N HCl and then twice with 200 ml of water, The organic phase is dried over Na2SO4 and the solvent is evaporated off. An oil remains and this was used for the further reactions without prior purification.

reactant | triethylamine | 27 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-aminothiazol-4-glyoxylate | 90 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | triphenylchloromethane | 75 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | dimethylformamide | 225 ml | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 375 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-triphenylmethylamino-thiazol-4-yl-glyoxylate | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=O | C26H22N2O3S
